US06841671B2
To a solution of 1-[6-(4-formyl-phenoxy)-pyridin-3-yl]-pyrolidine-2,2-dicarboxylic acid diethyl ester (1.0 g, 2.3 mmol) in 30 mL of ethanol was added sodium borohydride (0.090 g, 2.3 mmol) at 0° C. After stirring for 3 hours, the mixture was concentrated in vacuo, diluted with ethyl acetate and water, and the aqueous layer was cautiously acidified with 1M hydrochloric acid, then neutralized with saturated aqueous sodium bicarbonate. The mixture was extracted three times with ethyl acetate, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo, affording 0.80 g (80%) of 1-[6-(4-hydroxymethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester as a colorless syrup. 1H NMR (CDCl3, 400 MHz): 8.04 (d, 1H, J=2.4 Hz), 7.72 (dd, 1H, J=2.4, 8.8 Hz), 7.40 (d, 2H, J=8.8 Hz), 7.12 (d, 2H, J=8.4 Hz), 6.91 (d, 1H, J=8.8 Hz), 4.70 (s, 2H), 4.19 (q, 4H, J=7.6 Hz), 2.75 (m, 2H), 2.65 (m, 2H), 1.18 (t, 6H, J=7.2 Hz) ppm. MS (APCl, m/z): 429.1 [M+H]+.

reactant | 1-[6-(4-formyl-phenoxy)-pyridin-3-yl]-pyrolidine-2,2-dicarboxylic acid diethyl ester | 2.3 mmol, 1.0 g | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=O)C(=O)OCC | C22H24N2O6
reactant | sodium borohydride | 2.3 mmol, 0.090 g | [BH4-].[Na+]
reactant | ethanol | 30 mL | C(C)O | C2H6O
product | 1-[6-(4-hydroxymethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.80 g, 80% | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)CO)C(=O)OCC | C22H24N2O7
